US07320993B1
e) 8,8-bis-(4-fluorophenyl)-octylamine
8.1 g (18.1 mmol) 2-[8,8-bis-(4-fluorophenyl)-octyl]-isoindol-1,3-dione and 1.8 ml (37.0 mmol) hydrazine hydrate are heated under reflux in 50 ml ethanol for two hours. The cooled solution is concentrated under vacuum and the residue is purified by chromatography over silica gel with CHCl3/CH3OH/TEA (98/2/2): Yield 2.4 g (42%).

reactant | 2-[8,8-bis-(4-fluorophenyl)-octyl]-isoindol-1,3-dione | 18.1 mmol, 8.1 g | FC1=CC=C(C=C1)C(CCCCCCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)F | C28H27F2NO2
reactant | hydrazine hydrate | 37.0 mmol, 1.8 ml | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 8,8-bis-(4-fluorophenyl)-octylamine | FC1=CC=C(C=C1)C(CCCCCCCN)C1=CC=C(C=C1)F | C20H25F2N
